US09085555B2
C. 2-Fluoro-3-(trifluoromethoxy)aniline hydrochloride
To a mixture of benzhydrylidene-(2-fluoro-3-trifluoromethoxy-phenyl)-amine (7.5 g, 20 mmol) in Et2O (40 mL) was added 3N aqueous HCl (10 mL). The reaction mixture was stirred for 4 h at RT, followed by addition of water. The aqueous layer was extracted with Et2O (2×10 mL), the combined organic layers were washed with brine and then dried over MgSO4. After removal of solvent in vacuo, the residue was purified by preparative HPLC (stationary phase: Gimini 300×50 mm, particle size 10 μm; solvent: A H2O+BCH3CN, pressure: 60-70 bar). The product was extracted with Et2O as the free base from the combined fractions. HCl gas was bubbled through the organic phase, and the solvent was removed under vacuum to afford the title compound. Recrystallisation from EtOH/diisopropylether gave a white solid. 1H NMR (D2O, 400 MHz): δ 7.40-7.35 (m, 1H, ArH), 7.32-7.27 (m, 1H, ArH), 7.27-7.19 (m, 1H, ArH). HRMS: 196.03801 [M]+ (calcd. 196.03800 for C7H5F4NO); Anal. Calcd. for C7H5F4NO: C, 36.31; H, 2.61; N, 6.05; Cl, 15.31; F, 32.82. Found: C, 35.78; H, 2.63; N, 6.14; Cl, 15.69; F, 31.99.

reactant | benzhydrylidene-(2-fluoro-3-trifluoromethoxy-phenyl)-amine | 20 mmol, 7.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=C(C(=CC=C1)OC(F)(F)F)F | C20H13F4NO
reactant | HCl | 3N, 10 mL | Cl | ClH
reactant | water | O | H2O
solvent | Et2O | 40 mL | CCOCC | C4H10O
product | 2-Fluoro-3-(trifluoromethoxy)aniline hydrochloride | Cl.FC1=C(N)C=CC=C1OC(F)(F)F | InChI=1S/C7H5F4NO.ClH/c8-6-4(12)2-1-3-5(6)13-7(9,10)11;/h1-3H,12H2;1H
